US07687508B2
N-(((1S,2S,5R)-5-methoxy-2-((3S)-2-oxo-3-((6-(trifluoromethyl)-4-quinazolinyl)amino)-1-pyrrolidinyl)cyclohexyl)methyl)acetamide
A sample of the N-(((1S,2S,5R)-2-((S)-3-amino-2-oxopyrrolidin-1-yl)-5-methoxycyclohexyl)methyl)acetamide (220 mg, 0.776 mmol) was dissolved in 2-propanol (10 ml) at room temperature. To this solution was added triethylamine (0.433 ml, 3.11 mmol), followed by 4-chloro-6-(trifluoromethyl)quinazoline (235 mg, 1.009 mmol). The reaction mixture was stirred overnight. It was concentrated and chromatographed (120 g silica gel eluting with 5% followed by 10% MeOH in CH2Cl2) to afford the title compound (300 mg, 0.626 mmol, 81% yield) as a white solid. LC/MS found [M+H]+=480.4. 1H-NMR (400 MHz, CDCl3), δ ppm: 8.6 (s, 1H), 8.51 (s, 1H), 7.92 (br s, 1H), 7.87-7.82 (m, 2H), 6.28 (br s, 1H), 5.00 (dd, J=16.02, 8.65 Hz, 1H), 4.36-4.35 (m, 1H), 3.72-3.68 (m, 1H), 3.63-3.56 (m, 1H), 3.37-3.23 (m, 2H), 3.31 (s, 3H), 3.18-3.13 (m, 1H), 2.69-2.66 (m, 1H), 2.12-2.07 (m, 1H), 2.06-1.89 (m, 4H), 1.96 (s, 3H), 1.74-1.67 (m, 1H), 1.57-1.51 (m, 1H), 1.30-1.28 (m, 1H).

reactant | N-(((1S,2S,5R)-2-((S)-3-amino-2-oxopyrrolidin-1-yl)-5-methoxycyclohexyl)methyl)acetamide | 0.776 mmol, 220 mg | N[C@@H]1C(N(CC1)[C@@H]1[C@@H](C[C@@H](CC1)OC)CNC(C)=O)=O | C14H25N3O3
reactant | triethylamine | 3.11 mmol, 0.433 ml | C(C)N(CC)CC | C6H15N
reactant | 4-chloro-6-(trifluoromethyl)quinazoline | 1.009 mmol, 235 mg | ClC1=NC=NC2=CC=C(C=C12)C(F)(F)F | C9H4ClF3N2
solvent | 2-propanol | 10 ml | CC(C)O | C3H8O
product | N-(((1S,2S,5R)-5-methoxy-2-((3S)-2-oxo-3-((6-(trifluoromethyl)-4-quinazolinyl)amino)-1-pyrrolidinyl)cyclohexyl)methyl)acetamide | 0.626 mmol, 300 mg, 81% yield | CO[C@@H]1CC[C@@H]([C@@H](C1)CNC(C)=O)N1C([C@H](CC1)NC1=NC=NC2=CC=C(C=C12)C(F)(F)F)=O | C23H28F3N5O3
